US09034891B2
Synthesis of 1-(2,8-dimethyl-1-thia-3,8-diazaspiro[4.5]dec-3-yl)-3-(1H-indol-3-yl) propan-1-one (AF710)
To a stirred solution of 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane (2.18 g, 11.7 mmol) in dichloromethane (230 ml) at room temperature was added dicyclohexylcarbodiimide (DCC) (3.24 g, 15.7 mmol) followed by addition of 3-indolepropionic acid (2.87 g, 15.2 mmol). The resulting solution was stirred at room temperature overnight. During the reaction a white solid precipitated. After filtration the solvent was evaporated and the crude product was purified by flash chromatography (silica, CH2Cl2/EtOH/NH4OH 90/10/1) to give AF710 (2.5 g, 100% chemical purity) as a white solid. 1H NMR (CDCl3, 300 MHz) δ 8.17 (br s, 1H, NH-indole), 7.60 (d, J=7.81 Hz, 1H, CHC arom), 7.35 (d, J=8.08 Hz, 1H, CHC arom), 7.19 (app t, J=7.53 Hz, 1H, CHCH arom), 7.12 (app t, J=7.45 Hz, 1H, CHCH arom), 7.02 (d, J=1.86 Hz, 1H, CHNH arom), 5.52, 5.09 (2q, J=6.15 and J=6.22 Hz, 1H, CHCH3), 4.62, 3.66 (2d, J=11.76 and J=11.5 Hz, 1H, CHHNCO), 3.29, 3.08 (2d, J=11.48 and J=12.0 Hz, 1H, CHHNCO), 3.18-3.11 (m, 2H), 2.72-2.66 (m, 2H), 2.64-2.46 (m, 2H), 2.26, 2.25 (2s, 3H, NCH3), 2.32-2.19, 2.12-2.02 (2m, 2H), 1.87-1.80, 1.68-1.51 (2m, 4H), 1.48, 1.43 (2d, J=6.21 and J=6.19 Hz, 3H, CH3—CH) ppm; 13C NMR (CDCl3, 500 MHz) δ 170.58 (C), 136.39 (C), 127.25 (C), 122.19 (CH), 121.80 (CH), 119.52 (CH), 118.73 (CH), 115.17 (C), 111.31 (CH), 57.48, 57.19 (CH), 55.46 (C), 54.55, 54.12 (CH2), 53.11, 52.86 (CH2), 46.21, 46.15 (CH3), 38.05, 37.32 (CH2), 36.82, 36.31 (CH2), 34.41 (CH2), 25.44, 23.47 (CH3), 21.04, 20.96 (CH2) ppm.

reactant | 2,8-dimethyl-1-thia-3,8-diaza-spiro[4.5]decane | 11.7 mmol, 2.18 g | CC1SC2(CN1)CCN(CC2)C | C9H18N2S
reactant | dicyclohexylcarbodiimide | 15.7 mmol, 3.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-indolepropionic acid | 15.2 mmol, 2.87 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
solvent | dichloromethane | 230 ml | ClCCl | CH2Cl2
product | 1-(2,8-dimethyl-1-thia-3,8-diazaspiro[4.5]dec-3-yl)-3-(1H-indol-3-yl) propan-1-one | CC1SC2(CN1C(CCC1=CNC3=CC=CC=C13)=O)CCN(CC2)C | C20H27N3OS
